US05068404
To a 5 L 3-necked flask fitted with a mechanical stirrer, thermometer, addition funnel, and condenser was added 363 g (2.37 mol) of N-isopropylglycine hydrochloride, 205 g (2.50 mol) of phosphorous acid, and 1.7 L of 20% HCl solution. The mixture was heated to 108° C. giving a solution. From the addition funnel 231 g (2.84 mol) of 37% formaldehyde solution was added to the hot reaction mixture over 2 hours. The resulting yellow solution was refluxed for 8.5 hours. All volatiles were removed by vacuum distillation to leave a yellow oil. The oil was dissolved in 300 ml of H2O and diluted with 500 ml of ethyl alcohol to cause precipitation of the product. The crystals were collected by filtration, washed with ethyl alcohol, and air dried to yield 322 g (64%) of N-isopropyl-N-phosphonomethylglycine. Additional product contained in the mother liquors was not isolated.

reactant | N-isopropylglycine hydrochloride | 2.37 mol, 363 g | Cl.C(C)(C)NCC(=O)O
reactant | phosphorous acid | 2.50 mol, 205 g | P(O)(O)O | H3O3P
reactant | HCl | 1.7 L | Cl | ClH
reactant | formaldehyde | 2.84 mol, 231 g | C=O | CH2O
solvent | H2O | 300 ml | O | H2O
solvent | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | N-isopropyl-N-phosphonomethylglycine | 322 g, 64% | C(C)(C)N(CC(=O)O)CP(=O)(O)O | C6H14NO5P
